US09193935B2
2.15 (4,8-Dimethylnona-2,7-dienyl)benzene
Starting from phenethyltriphenylphosphonium bromide (3.20 g, 7.15 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 4.5 mL, 7.15 mmol, 1.0 equiv.) and 2,6-dimethylhept-5-enal (1.51 g, 10.7 mmol, 1.5 equiv.), 1.21 g (74%) of the title compound as a colorless oil was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 997:3).

reactant | phenethyltriphenylphosphonium bromide | 7.15 mmol, 3.20 g, 1.0 equiv. | [Br-].C(CC1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 7.15 mmol, 1.6 M, 4.5 mL, 1.0 equiv. | [Li]CCCC
reactant | 2,6-dimethylhept-5-enal | 10.7 mmol, 1.51 g, 1.5 equiv. | CC(C=O)CCC=C(C)C | C9H16O
product | (4,8-Dimethylnona-2,7-dienyl)benzene | 1.21 g, 74% | CC(C=CCC1=CC=CC=C1)CCC=C(C)C | C17H24
